data/mechanisms/records/IMS9-EQ9.17.json
{"mechanism_id": "IMS9-EQ9.17", "species": [{"species_id": "m_tolyl_1_propane_molecular_ion", "mapped_smiles": "[C:1]1([CH2:8][CH2:9][CH3:10])[CH+:2][CH:3]=[CH:4][C:5]([CH3:7])=[CH:6]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methylene_cyclohexadienyl_cation_105", "mapped_smiles": "[CH2:8]=[C:1]1[CH+:2][CH:3]=[CH:4][C:5]([CH3:7])=[CH:6]1", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "ethyl_radical", "mapped_smiles": "[CH2:9][CH3:10]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["m_tolyl_1_propane_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["methylene_cyclohexadienyl_cation_105", "ethyl_radical"]}], "steps": [{"step_id": "step_benzylic_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [8, 9]}, "target": {"type": "bond", "atom_maps": [1, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [8, 9]}, "target": {"type": "atom", "atom_maps": [9]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_benzylic_cleavage", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_benzylic_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 240, "equation": "9.17", "figure": null, "panel": null, "section": "9.1 Hydrocarbons (alkylbenzenes; benzylic cleavage of tolyl-1-propane, competing with eq 9.16)"}, "confidence": 0.85, "curator_note": "Benzylic cleavage drawn as a radical-site alpha cleavage: the odd electron printed on the IPSO ring carbon (map 1) drives homolysis of the C-alpha/C-beta bond (map8-map9), forming the exocyclic map1=map8 pi bond and expelling the ethyl radical; '- C2H5' is printed over the arrow (no radical dot is printed with it, but the loss must be C2H5. for 134 -> the even-electron C8H9+ ion the page labels as m/z 105). SUBSTRATE AS DRAWN: propyl chain on the lower-left ring vertex (map 1) and CH3 on the lower-right vertex (map 5), i.e. the 1,3 relationship = m-tolyl-1-propane, M+. m/z 134 - the meta isomer, whereas the competing rearrangement of eq 9.16 immediately above is drawn on the para isomer; both isomers are being contrasted in the running text on p.239. ARROWS: Book draws 1 arc; move <2> is drawn - a fishhook that starts on the C-alpha/C-beta sigma bond (map8-map9) and points at the printed radical dot on map 1, i.e. into the forming map1=map8 pi bond. Move <1> (the ring radical's own odd electron completing that pi bond) and move <3> (the implicit homolysis hook carrying the second sigma electron onto the departing ethyl radical) are NOT drawn on the page; both are required for electron balance, and the book shows their outcome only by printing the exocyclic double bond of the product and writing the loss as '- C2H5'. LOCALIZATION (convention B) / RESONANCE (convention C): the molecular ion is drawn LOCALIZED with '+' on the ortho ring carbon (map 2) and '.' on the ipso carbon (map 1), ring Kekule double bonds map3=map4 and map5=map6; this record uses exactly that printed canonical form. The m/z 105 ion is likewise encoded as printed - the exocyclic-methylene cyclohexadienyl cation (CH2=C(ring), '+' on map 2) - which is one resonance/Kekule form of the benzyl cation; one page earlier (eq 9.13, p.239) the book itself draws the aromatic benzyl cation and its tropylium partner for the same C8H9+/C7H7+ ion type. RDKit keeps both ions non-aromatic (0 aromatic bonds), so all bond-order bookkeeping is integer. INTENSITY: 'm/z 105' is labelled but no percentage is printed on p.240, so relative_intensity is omitted (convention F); the 5.5% / 0.9% figures on p.239 are the abundance of the eq 9.16 rearrangement ion RELATIVE TO THIS benzylic ion, not an intensity of this peak."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 134.109, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_105", "species_id": "methylene_cyclohexadienyl_cation_105", "step_id": "step_benzylic_alpha_cleavage", "observed_mz": 105.0699, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-30T00:00:00Z", "modified_at": "2026-07-30T00:00:00Z"}}
